US05618816
A mixture of 3-[3-bromopropyl]-5-nitro-1H-indole (1.4 g, 4.2 mmol), 1-(2-pyridinyl)-piperazine, (0.98 g, 5.09 mmol) and K2CO3 (1.4 g, 10.2 mmol) in 30 mL of acetonitrile was heated to reflux for 4 h. The reaction mixture was cooled, the solvent was removed and the residue dissolved in ethyl acetate and water. The aqueous layer was separated and extracted with ethyl acetate. The organic extracts were dried (MgSO4) and concentrated, and the gummy residue purified by flash silica gel chromatography (5% methanol in dichloromethane) to give 3-[3-[4-(2-pyridinyl)-1-piperazinyl]propyl]-5-nitro-1H-indole, (0.6 g, 36%) as a yellow solid: IR(KBr) 3182, 1520, 1330 cm-1 ; 1H NMR (DMSO-d6, 300 MHz) δ8.52 (d, J=2.24 Hz, 1H), 8.80 (dd, J=1.8, 4.8 Hz, 1H), 7.95 (dd, J=2.25, 9.0 Hz, 1H), 7.52-7.49 (m, 2H), 7.41 (s, 1H), 6.79 (d, J=8.6 Hz, 1H), 6.60 (t, J=6.6 Hz, 1H), 3.46 (t, J=4.7 Hz, 4H), 2.78 (t, J=7.4 Hz, 2H), 2.42 (t, J=5.0 Hz, 4H), 2.34 (t, J=6.9 HZ, 4H), 1.82 (dt, J=7.4, 6.9 Hz, 2H); MS (m/e) 365 (M+). Anal. Calcd for C20H23N5O2 : C, 65.73, H, 6.34, N 19.16; found C, 65.35, H, 6.26, N, 18.87.

reactant | 3-[3-bromopropyl]-5-nitro-1H-indole | 4.2 mmol, 1.4 g | BrCCCC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C11H11BrN2O2
reactant | 1-(2-pyridinyl)-piperazine | 5.09 mmol, 0.98 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | K2CO3 | 10.2 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-[3-[4-(2-pyridinyl)-1-piperazinyl]propyl]-5-nitro-1H-indole | 0.6 g, 36% | N1=C(C=CC=C1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C20H23N5O2
